US04797399
A mixture of 6-chloro-1-[(4-benzylideneamino-1-piperazinyl)carbonylmethyl]-2,3-indolinedione (1.5 g) and hydroxylamine hydrochloride (2.5 g) in acetonitrile (100 ml), conc. hydrochloric acid (50 ml), and water (50 ml) was heated at 40° C. for 2 hour. The reaction mixture was concentrated up to 20 ml and the precipitates appeared were filtered, and air-dried. This crude material was recrystallized from aqueous methanol at first, and for water finally to give 6-chloro-1-[(4-amino-1-piperazinyl)carbonylmethyl]-3-hydroxyimino-2-indolinone hydrochloride (0.54 g).

reactant | 6-chloro-1-[(4-benzylideneamino-1-piperazinyl)carbonylmethyl]-2,3-indolinedione | 1.5 g | ClC1=CC=C2C(C(N(C2=C1)CC(=O)N1CCN(CC1)N=CC1=CC=CC=C1)=O)=O | C21H19ClN4O3
reactant | hydroxylamine hydrochloride | 2.5 g | Cl.NO
reactant | water | 50 ml | O | H2O
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
solvent | hydrochloric acid | 50 ml | Cl | ClH
product | 6-chloro-1-[(4-amino-1-piperazinyl)carbonylmethyl]-3-hydroxyimino-2-indolinone hydrochloride | 0.54 g | Cl.ClC1=CC=C2C(C(N(C2=C1)CC(=O)N1CCN(CC1)N)=O)=NO | InChI=1S/C14H16ClN5O3.ClH/c15-9-1-2-10-11(7-9)20(14(22)13(10)17-23)8-12(21)18-3-5-19(16)6-4-18;/h1-2,7,23H,3-6,8,16H2;1H
